US07732596B2
2-Bromo-6-fluorobenzaldehyde
To a solution of diisopropylamine (2.65 mL) in tetrahydrofuran (30 mL) was added n-butyllithium (2.44 mol/L n-hexane solution, 7.03 mL) at −78° C. under an argon atmosphere, and the mixture was stirred at the same temperature for 5 minutes. To the reaction mixture was added 3-bromofluorobenzene (3 g), and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added N,N-dimethylformamide (1.45 mL), and the mixture was stirred at the same temperature for 10 minutes, then a saturated ammonium chloride aqueous solution was added to the reaction mixture, and the mixture was stirred under ice-cooling for 5 minutes. The mixture was poured into water, and the mixture was extracted with diethyl ether. The extract washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give the title compound (3.43 g).

reactant | diisopropylamine | 2.65 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.44 mol/L, 7.03 mL | C(CCC)[Li]
reactant | 3-bromofluorobenzene | 3 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 1.45 mL | CN(C=O)C | C3H7NO
product | 2-Bromo-6-fluorobenzaldehyde | 3.43 g | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
